US06858613B2
N-[(3R,5R)-1-azabicyclo[3.2.1]oct-3-yl]pyrrolo[1,2-a]pyrazine-3-carboxamide Fumurate
Example 15 is prepared from pyrrolo[1,2-a]pyrazine-3-carboxylic acid hydrochloride and (3R,5R)-1-azabicyclo[3.2.1]octan-3-amine dihydrochloride using Procedure C to give a mixture purified by silica gel chromatography (9% MeOH/1%NH3OH/CHCl3 as the eluent) salted with fumaric acid, and crystallized from acetone to give a white solid. Yield 83%. HRMS (FAB) calcd for C15H18N4O MH+271.1559, found 271.1550.

reactant | pyrrolo[1,2-a]pyrazine-3-carboxylic acid hydrochloride | Cl.C=1C=2N(C=C(N1)C(=O)O)C=CC2
reactant | (3R,5R)-1-azabicyclo[3.2.1]octan-3-amine dihydrochloride | Cl.Cl.N12C[C@@H](C[C@@H](CC1)C2)N
product | N-[(3R,5R)-1-azabicyclo[3.2.1]oct-3-yl]pyrrolo[1,2-a]pyrazine-3-carboxamide | Yield 83% | N12C[C@@H](C[C@@H](CC1)C2)NC(=O)C=2N=CC=1N(C2)C=CC1 | C15H18N4O
